US05795888
In a 100 ml roundbottom flask equipped with magnetical stirring, thermometer and addition funnel, 5,6,7,12-tetrahydrodibenzo[b,g]azocine (2.1 g, 0.01 mol, prepared in a similar way as described in Chem. Pharm. Bull., 26, (1978), 942) was dissolved in dry toluene (60 ml) and ethyl malonyl chloride (2.0 g, 0.013 mol) was slowly added. The reaction mixture was heated at reflux temperature for 2 h and then allowed to cool to room temperature. Under stirring, 0.2N NaOH (5 ml) and water (60 ml) were added. More toluene was added (100 ml) and the phases were separated. The organic phase was washed with water (3×75 ml) and brine (75 ml). After drying (MgSO4), the organic phase was evaporated in vacuo affording 3.1 g (95%) of 3-(6,7-dihydro-5H-dibenzo[b,g]azocin-12yl-3-oxopropionic acid ethyl ester as an oil. LiAlH4 (1.4 g, 0.037 mol) was placed in a dry, 250 ml, three-necked, round-bottom flask, equipped with thermometer, magnetical stirring and addition funnel. Under nitrogen, dry toluene (60 ml) was added followed by slow addition of THF (6 ml). A temperature at 15°-25° C. was assured by the use of a water/ice-bath. After stirring for 30 minutes, the above amide (3.0 g, 0.0093 mol) was dissolved in dry toluene (18 ml) and slowly added to the LiAlH4 -slurry at 20°-25° C. The reaction mixture was left stirring overnight at room temperature. Water (1.5 ml) was slowly added dropwise, followed by 4N NaOH (1.5 ml) and finally water (4.5 ml). The resulting precipitate was filtered off on filter aid (celite). The toluene solution was dried (MgSO4) and evaporated in vacuo. The crude residue was purified by column chromatography on silica gel (75 g), using a mixture of heptane and ethyl acetate (1:1) as eluent. This afforded 0.4 g (48%) of 3-(6,7-dihydro-5H-dibenzo-[b,g]azocin-12-yl)-1-propanol, as an oil. Rf : 0.37 (SiO2 ; n-heptane/ethyl acetate=1:1)

reactant | 5,6,7,12-tetrahydrodibenzo[b,g]azocine | C1=CC=CC2=C1NC1=C(CCC2)C=CC=C1 | C15H15N
reactant | ethyl malonyl chloride | 0.013 mol, 2.0 g | C(C)C(C(=O)Cl)C(=O)Cl | C5H6Cl2O2
reactant | NaOH | 0.2N, 5 ml | [OH-].[Na+]
reactant | water | 60 ml | O | H2O
reactant | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
product | 6,7-dihydro-5H-dibenzo[b,g]azocin-12yl-3-oxopropionic acid ethyl ester | C(C)OC(C(C=O)N1C2=C(CCCC3=C1C=CC=C3)C=CC=C2)=O | C20H21NO3
